US07462630B2
Synthesis of N-((1S)-1-{[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]carbonyl}-3-methylbutyl)-N-methylamine hydrochloride
344 mg (0.69 mmol) of t-butyl (1S)-1-{[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]carbonyl}-3-methylbutyl(methyl)carbamate was dissolved in 2 ml of 1,4-dioxane. 4 ml of 4 N hydrochloric acid/1,4-dioxane solution was added to the obtained solution, and they were stirred at room temperature for 5 hours and then concentrated under reduced pressure to obtain the title compound.

reactant | t-butyl (1S)-1-{[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]carbonyl}-3-methylbutyl(methyl)carbamate | 0.69 mmol, 344 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(=O)[C@H](CC(C)C)N(C(OC(C)(C)C)=O)C | C32H40N2O3
reactant | hydrochloric acid 1,4-dioxane | 4 N, 4 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | N-((1S)-1-{[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]carbonyl}-3-methylbutyl)-N-methylamine hydrochloride | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(=O)[C@H](CC(C)C)NC | InChI=1S/C27H32N2O.ClH/c1-19(2)18-25(28-3)27(30)29-16-14-22(15-17-29)26-23-10-6-4-8-20(23)12-13-21-9-5-7-11-24(21)26;/h4-13,19,25,28H,14-18H2,1-3H3;1H/t25-;/m0./s1
